US05140038
Ethyl 4-[2-(4-cyanobenzenesulphonylamino)-ethyl]-cyclohexylacetate
by the reaction of 4-cyanobenzenesulphonyl chloride with ethyl 4-(2-aminoethyl)-cyclohexylacetate hydrochloride in methylene chloride in the presence of triethylamine. Yield 95% of theory, colourless oil.

reactant | 4-cyanobenzenesulphonyl chloride | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | ethyl 4-(2-aminoethyl)-cyclohexylacetate hydrochloride | Cl.NCCC1CCC(CC1)CC(=O)OCC
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 4-[2-(4-cyanobenzenesulphonylamino)-ethyl]-cyclohexylacetate | Yield 95% | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCC1CCC(CC1)CC(=O)OCC | C19H26N2O4S
